US07414036B2
2-(Dimethylamino)-1,3-benzoxazole-5-carbonitrile
A mixture of 3-Amino-4-hydroxybenzonitrile (2 g, 14.9 mmol) and dichloromethylenedimethylammonium chloride (phosgene iminium chloride, 2.42 g, 14.9 mmol) in 50 mL of dry CH2Cl2 was refluxed for 6 h. After cooling the solution was extracted with EtOAc, washed with NaHCO3, brine and dried (MgSO4). The residue was crystallized in MeOH yielding 2.51 g (90%) of the title compound as a white solid. M.p.: 198-200° C., 1H NMR (CD3OD) δ 7.61 (d, 1H, J=2.8 Hz, H-4), 7.36-7.32 (m, 2H, H-6, H-7), 3.28 (s, 6H, CH3×2); 13C NMR (CD3OD) δ 164.4 (C-2), 152.2 (C-7a), 145.0 (C-3a), 125.4 (C-6), 120.0 (CN), 119.9 (C-4), 109.8 (C-7), 108.0 (C-5), 38.2 (CH3).

reactant | 3-Amino-4-hydroxybenzonitrile | 14.9 mmol, 2 g | NC=1C=C(C#N)C=CC1O | C7H6N2O
reactant | dichloromethylenedimethylammonium chloride | 14.9 mmol, 2.42 g | [Cl-].ClC(Cl)=[N+](C)C
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-(Dimethylamino)-1,3-benzoxazole-5-carbonitrile | CN(C=1OC2=C(N1)C=C(C=C2)C#N)C | C10H9N3O
